US07365085B2
b) {3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl-amino)]-propoxy}-4-methyl-phenylamine
To a solution of {3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl-amino)]-propoxy}-4-methyl-phenyl carbamic acid tert-butyl ester (0.09 g, 0.14 mmol) and CH2Cl2 (2 mL), TFA (0.20 mL, 1.2 mmol) was added and the reaction mixture was stirred for 1 h. The mixture was then poured into NaHCO3, extracted with CH2Cl2, dried over Na2SO4, filtered, and concentrated to yield the product as a yellow oil (0.03 g, 39%): MS(ES) m/e 553.2 [M+H]+.

reactant | {3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl-amino)]-propoxy}-4-methyl-phenyl carbamic acid tert-butyl ester | 0.14 mmol, 0.09 g | C(C)(C)(C)OC(N(C1=CC=C(C=C1)C)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C37H40ClF3N2O3
reactant | TFA | 1.2 mmol, 0.20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | {3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl-amino)]-propoxy}-4-methyl-phenylamine | 0.03 g, 39% | ClC1=C(CN(CCCONC2=CC=C(C=C2)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H32ClF3N2O
